US06833364B1
2-Cyclopropyl-3-dimethylaminoacrylonitrile
At 100° C., 25 g (292.8 mmol) of cyclopropylacetonitrile (obtainable by the process described in U.S. Pat. No. 3,454,575) and 25.5 g (30.2 ml, 146.4 mmol) of bis(dimethylamino)-tert-butyloxymethane are stirred under a riser pipe for 46 hours. Volatile components are evaporated under reduced pressure and the residue is subsequently distilled at 0.1 Torr and 60-65° C.

reactant | cyclopropylacetonitrile | 292.8 mmol, 25 g | C1(CC1)CC#N | C5H7N
reactant | bis(dimethylamino)-tert-butyloxymethane | 146.4 mmol, 30.2 ml, 25.5 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
product | 2-Cyclopropyl-3-dimethylaminoacrylonitrile | C1(CC1)C(C#N)=CN(C)C | C8H12N2
